US07238724B2
(2S,5R)-1-(chloroacetyl)-5-propynylpyrrolidine-2-carbonitrile
To a stirred solution of (5R)-1-(chloroacetyl)-5-propynyl-L-prolinamide (0.28 g, 1.23 mmol) and imidazole (0.084 g, 1.23 mmol) in dry pyridine (6 mL ) at −35° C. under nitrogen was added POCl3 (0.23 mL, 2.46 mmol) dropwise. The reaction mixture was stirred between −35° C. to −15° C. for 1 hour and evaporated. The residue was diluted with dichloromethane and washed with H2O (2×), dried (Na2SO4), filtered and concentrated under reduced pressure. Purification by flash chromatography (10% ethyl acetate/hexane) provided the titled compound. MS (DCI) m/z 211 (M+H)+.

reactant | (5R)-1-(chloroacetyl)-5-propynyl-L-prolinamide | 1.23 mmol, 0.28 g | ClCC(=O)N1[C@H](C(=O)N)CC[C@@H]1C#CC | C10H13ClN2O2
reactant | imidazole | 1.23 mmol, 0.084 g | N1C=NC=C1 | C3H4N2
reactant | POCl3 | 2.46 mmol, 0.23 mL | O=P(Cl)(Cl)Cl | Cl3OP
solvent | pyridine | 6 mL | N1=CC=CC=C1 | C5H5N
product | (2S,5R)-1-(chloroacetyl)-5-propynylpyrrolidine-2-carbonitrile | ClCC(=O)N1[C@@H](CC[C@@H]1C#CC)C#N | C10H11ClN2O
